US08809371B2
Cesium carbonate (214 mg), pyrrole (30 mg), Xantphos (63 mg), and Pd2(dba)3 (50 mg) were added to a 1,4-dioxane solution (5 mL) containing tert-butyl(5-bromopyridin-3-yl)carbamate (100 mg) in a nitrogen atmosphere, followed by stirring at 100° C. for 8 hours. The reaction solution was adjusted to room temperature, and water was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and dried over anhydrous sodium sulfate. Then, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=5:1 to 1:1), and a light yellow solid of tert-butyl(5-(1H-pyrrol-1-yl)pyridin-3-yl)carbamate (36 mg) was thus obtained.

reactant | Cesium carbonate | 214 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | pyrrole | 30 mg | N1C=CC=C1 | C4H5N
reactant | Xantphos | 63 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | tert-butyl(5-bromopyridin-3-yl)carbamate | 100 mg | C(C)(C)(C)OC(NC=1C=NC=C(C1)Br)=O | C10H13BrN2O2
catalyst | Pd2(dba)3 | 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | tert-butyl(5-(1H-pyrrol-1-yl)pyridin-3-yl)carbamate | 36 mg | C(C)(C)(C)OC(NC=1C=NC=C(C1)N1C=CC=C1)=O | C14H17N3O2
